US04540703
4-[1-(4-Ethylphenyl)-1,2,3,4-tetrazol-5-yl]thio-butyric acid (45 mmole) is dissolved in tetrahydrofuran (50 ml), and thereto is added DBU (50 mmole). To the mixture is added dropwise with stirring isobutyl chloroformate (50 mmol) under ice-cooling, and the mixture is stirred at room temperature for 30 minutes. To the mixture is added dropwise N-ethyl-cyclohexylamine (54 mmole), and the mixture is further stirred at room temperature for 2 hours. The solvent is distilled off under reduced pressure and the resulting residue is extracted with chloroform. The chloroform layer is washed with 5% aqueous hydrochloric acid, an aqueous saturated sodium hydrogen carbonate solution and an aqueous saturated sodium chloride solution and then dried over anhydrous sodium sulfate. Chloroform is distilled off and the resulting residue is subjected to column chromatography (Wakogel C-200, eluting solvent, benzene:chloroform=4:1, V/V) to isolate N-ethyl-N-cyclohexyl-4-[1-(4-ethylphenyl)-1,2,3,4-tetrazol-5-yl]thio-butyramide (yield: 43%), colorless liquid, nD19 =1.5533.

reactant | 4-[1-(4-Ethylphenyl)-1,2,3,4-tetrazol-5-yl]thio-butyric acid | 45 mmole | C(C)C1=CC=C(C=C1)N1N=NN=C1CCCC(=S)O | C13H16N4OS
reactant | DBU | 50 mmole | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | isobutyl chloroformate | 50 mmol | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-ethyl-cyclohexylamine | 54 mmole | C(C)NC1CCCCC1 | C8H17N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-ethyl-N-cyclohexyl-4-[1-(4-ethylphenyl)-1,2,3,4-tetrazol-5-yl]thio-butyramide | yield: 43% | C(C)N(C(CCCC1=NN=NN1C1=CC=C(C=C1)CC)=S)C1CCCCC1 | C21H31N5S
